* Frozen netlist snapshot for record 20260802-041312-5066d85
* source     : sim/startup-slow-ramp/testbench/bandgap_startup_ramp.spice
* sha256     : 4f3f0e99332faf826c2b971a37978d3c37db3c68cd96eb6f48256af03a5bab45
* This is a verbatim copy taken at record time. Do not edit.
* bandgap-startup supply-ramp testbench (issue #11).
*
* CORE RESIZED IN #61 -- RECORDS TAKEN BEFORE AND AFTER ARE NOT COMPARABLE.
* The bandgap_core copy embedded below carries #61's R1/R2 co-scaling: both
* the PTAT resistor R2 and the output-branch summing resistor R1 (here in
* its pre-trim lumped form, electrically R1 + 32 trim units at the default
* code) are scaled by k = 2, halving the design current I = dVBE/R2 while
* holding I*R1 and the R1/R2 ratio fixed. See design/bandgap_core.sch's
* header and design/bandgap_error_budget.md Sec 5 for the derivation.
*
* AMP SIZING (comparability note, #10 integration): the bandgap_amp subckt
* below carries the FINAL, offset-budgeted sizing from issue #10
* (design/bandgap_error_budget.md) -- input pair M1/M2 W=100u nf=2 / L=4u,
* mirror load M3/M4 W=40u / L=4u -- and is byte-for-byte the
* design/netlist/bandgap_top.spice expansion of the current
* design/bandgap_amp.sch. The first records minted from this testbench
* (2026-08-01, record-ids ending -fbfa3f1) predate #10 and used #8's
* provisional 10u/4u amp; #10 landed after those records were minted, so
* per issue #11's own ordering note they are SUPERSEDED rather than
* amended -- see this experiment's records/ for the superseding record and
* its Supersedes: field. Records taken before and after this change are
* NOT directly comparable: the resize raises the input pair's gm ~3x and
* the amp's own node capacitance ~4-10x, which moves the servo loop's
* settling dynamics and therefore the measured startup time.
*
* Netlist FRAGMENT for sim/harness (sim/README.md format). The harness
* supplies .include of the gf180mcu models, the corner .lib sections,
* .temp, the .control block and .end. Parameters available: vdd_val,
* vdd_nom, temp_c, plus this manifest's own params: tramp (supply ramp
* 10%->100% time) and tstep/tstop (transient step/stop, sized per ramp
* rate by the sibling tb.json in sim/startup-slow-ramp/ -- this file is
* intentionally byte-identical between sim/startup/ (fast ramp) and
* sim/startup-slow-ramp/ (slow ramp); only the tb.json params differ).
*
* Content below is the ngspice output of:
*   xschem --rcfile design/xschemrc -n -x -q design/bandgap_top.sch
* (bandgap_core + bandgap_amp + bandgap_startup subckts, then a local
* bandgap_top wrapper wired exactly as design/bandgap_top.sch does),
* with ONE instrumentation addition not present in design/netlist/: a
* zero-volt ammeter "Vsu_sense" in series between the shared vdd rail and
* bandgap_startup's own vdd pin, so this testbench can isolate the startup
* branch's own current draw (v.xtop.vsu_sense#branch) from the whole
* block's total supply current (-i(vsup)) -- this is how the "disengagement
* / residual-current itemized against the Iq budget" acceptance criterion
* in issue #11 is measured. It does not change circuit behavior (a 0V
* source in series is transparent).
*
* Supply drive: a single PWL ramp from 0V to vdd_val over {tramp} seconds,
* then held. No .ic / .nodeset -- the transient's own t=0 operating point
* is trivially all-zero (vdd=0 at t=0), which is the real power-up
* condition, not a numerically-convenient seed. See
* sim/startup/records/ and sim/startup-slow-ramp/records/ for why both a
* fast and a slow ramp rate are run (the slow ramp is the case that can
* mask a stall a step/fast-ramp would not expose -- see the issue's
* Implementation guidance).

.subckt bandgap_top vdd vss vref

Xx1 vdd sns1 sns2 vss fb vref ibias casc bandgap_core
Xx2 sns2 sns1 vss fb vdd ibias bandgap_amp
Vsu_sense vdd vdd_su 0
Xx3 vdd_su vss fb casc ibias bandgap_startup
.ends
.subckt bandgap_core vdd sns1 sns2 vss fb vref ibias casc

XM1 d1 fb vdd vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC1 sns1 casc d1 vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XQ1 vss vss sns1 pnp_05p00x05p00 m=1
XM2 d2 fb vdd vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC2 sns2 casc d2 vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR2 e2 sns2 vss ppolyf_u r_width=2u r_length=36.341871u m=1
XQ2 vss vss e2 pnp_10p00x10p00 m=1
XM3 d3 fb vdd vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC3 vref casc d3 vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR1 e3 vref vss ppolyf_u r_width=2u r_length=560.341647u m=1
XQ3 vss vss e3 pnp_05p00x05p00 m=1
XM4 d4 fb vdd vdd pfet_03v3 L=6u W=7.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC4 ibias casc d4 vdd pfet_03v3 L=6u W=7.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 ibias ibias vss vss nfet_03v3 L=2u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCB casc casc vdd vdd pfet_03v3 L=12u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNB casc ibias vss vss nfet_03v3 L=2u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends
.subckt bandgap_amp in_p in_n vss out vdd tail_bias


XM3 a3 nd1 vdd vdd pfet_03v3 L=16u W=20u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 a4 nd1 vdd vdd pfet_03v3 L=16u W=20u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC3 nd1 pbias a3 vdd pfet_03v3 L=16u W=40u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC4 out pbias a4 vdd pfet_03v3 L=16u W=40u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC1 nd1 ncasc n1 vss nfet_03v3 L=16u W=20u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC2 out ncasc n2 vss nfet_03v3 L=16u W=20u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM1 n1 in_p tail vss nfet_03v3 L=4u W=200u nf=8 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 n2 in_n tail vss nfet_03v3 L=4u W=200u nf=8 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 tail tail_bias vss vss nfet_03v3 L=4u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBN2 pbias tail_bias vss vss nfet_03v3 L=16u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBP1 pbias pbias vdd vdd pfet_03v3 L=50u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMB1 ncasc pbias vdd vdd pfet_03v3 L=50u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBD1 ncasc ncasc nb1 vss nfet_03v3 L=4u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBD2 nb1 nb1 vss vss nfet_03v3 L=4u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCC vdd out cap_mim_2f0_m4m5_noshield c_width=60u c_length=60u m=1
.ends
.subckt bandgap_startup vdd vss fb casc ibias

XMSENSE det ibias vss vss nfet_03v3 L=2u W=20u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRPU det vdd vss ppolyf_u_1k r_width=2u r_length=4000u m=1
XMKFB fb det vss vss nfet_03v3 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMKCASC casc det vss vss nfet_03v3 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

vsup vdd 0 pwl(0 0 {tramp} {vdd_val} 10 {vdd_val})
Xtop vdd 0 vref bandgap_top
